US08748434B2
a) [5-(4-Fluoro-2-methoxy-phenyl)-pyridazin-4-yl]-methyl-amine
The title compound was prepared in analogy to example 1, intermediate a, from 5-(4-fluoro-2-methoxy-phenyl)-pyridazin-4-ylamine and using a gradient of dichloromethane:methanol (100:0 to 90:10) for the chromatographic purification. Brown oil (5%). MS (ESI+): m/z=234.1 ([M+H]+).

reactant | 5-(4-fluoro-2-methoxy-phenyl)-pyridazin-4-ylamine | FC1=CC(=C(C=C1)C=1C(=CN=NC1)N)OC | C11H10FN3O
reactant | dichloromethane methanol | ClCCl.CO
product | [5-(4-Fluoro-2-methoxy-phenyl)-pyridazin-4-yl]-methyl-amine | FC1=CC(=C(C=C1)C=1C(=CN=NC1)NC)OC | C12H12FN3O
